US04258047
20. 2-(4-Phenylpiperazino)-ethyl (1,5-diphenyl-pyrazol-4-yl)-acetate
2-(4-phenylpiperazino)-ethyl 3-benzoyl-4-dimethylamino-3-butenoate respectively, with phenylhydrazine.

reactant | 2-(4-phenylpiperazino)-ethyl 3-benzoyl-4-dimethylamino-3-butenoate | C(C1=CC=CC=C1)(=O)C(CC(=O)OCCN1CCN(CC1)C1=CC=CC=C1)=CN(C)C | C25H31N3O3
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | 2-(4-Phenylpiperazino)-ethyl (1,5-diphenyl-pyrazol-4-yl)-acetate | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CC(=O)OCCN1CCN(CC1)C1=CC=CC=C1 | C29H30N4O2
